US07816522B2
After adding 185 mg of 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine, 239 mg of 6-fluoro-9-methoxy-3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-carbaldehyde, 250 mg of MS3A and 0.28 ml of trimethylsilyl cyanide to a solution of 65 mg of Yb(OTf)3 in 4 ml of THF under a nitrogen atmosphere, the mixture was stirred overnight at room temperature. The reaction mixture was filtered through celite, and the celite was washed with ethyl acetate. The organic layer was concentrated under reduced pressure to give (6-fluoro-9-methoxy-3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile (crude product).

reactant | 4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamine | 185 mg | CC1=NC(=NO1)C1=CC=C(C=C1)N | C9H9N3O
reactant | 6-fluoro-9-methoxy-3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-carbaldehyde | 239 mg | FC1=C(C=C(C=2OCCCOC21)OC)C=O | C11H11FO4
reactant | trimethylsilyl cyanide | 0.28 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | Yb(OTf)3 | 65 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | (6-fluoro-9-methoxy-3,4-dihydro-2H-benzo[b][1,4]dioxepin-7-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]acetonitrile | FC1=C(C=C(C=2OCCCOC21)OC)C(C#N)NC2=CC=C(C=C2)C2=NOC(=N2)C | C21H19FN4O4
